US04332944
In like manner, each of 3-bromomethylpyridine and 5-chloro-2-bromomethylpyridine is reacted with 2-chloro-4-nitrophenol to give 3-(2-chloro-4-nitrophenoxy)methylpyridine and 5-chloro-2-(2-4-nitrophenoxy)methylpyridine, respectively, each of which is reduced. The resulting 3-(2-chloro-4-aminophenoxy)methylpyridine and 5-chloro-2-(2-chloro-4-aminophenoxy)methylpyridine is each reacted with 3,4,5,6-tetrahydrophthalic anhydride to yield, respectively, N-3-chloro-4-(3-pyridylmethoxy)phenyl-3,4,5,6-tetrahydrophthalimide and N-3-chloro-4-[2-(5-chloropyridyl)methoxy]phenyl-3,4,5,6-tetrahydrophthalmide.

reactant | 3-bromomethylpyridine | BrCC=1C=NC=CC1 | C6H6BrN
reactant | 5-chloro-2-bromomethylpyridine | ClC=1C=CC(=NC1)CBr | C6H5BrClN
reactant | 2-chloro-4-nitrophenol | ClC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4ClNO3
product | 3-(2-chloro-4-nitrophenoxy)methylpyridine | ClC1=C(OCC=2C=NC=CC2)C=CC(=C1)[N+](=O)[O-] | C12H9ClN2O3
